US04558135
40 g (0.24 mol) of 2-mercaptobenzothiazole (MBT), 4 mg (0.02×10-3 mol) of copper (II) acetate, (Cu(OAc)2. H2O), 4.08 g (0.24 mol) of ammonia, and 120 g of isopropanol are placed in a glass autoclave equipped with a jacket for the circulation of a heating liquid, a thermometer, a pressure measuring device and a stirring device. The reaction mixture is heated to 70° C., stirred vigorously, and placed under an oxygen pressure of 4 bar. Absorption of oxygen is noted immediately and a precipitate, dibenzothiazyl disulfide (MBTS), is formed. After 6.5 hours the reaction is discontinued and the precipitate is filtered off, washed with isopropanol, and dried under a vacuum at 50° C. 37.8 g of a product are obtained in this manner. Upon elementary analysis, IR, NMR and MS, the product formed is found to correspond to dibenzothiazyl disulfide. The purity is found to be 100% upon chromatographic analysis (melting point 178° C.).

reactant | 2-mercaptobenzothiazole | 0.24 mol, 40 g | SC=1SC2=C(N1)C=CC=C2 | C7H5NS2
reactant | ammonia | N | H3N
catalyst | copper (II) acetate | 0.02×10-3 mol, 4 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | isopropanol | 120 g | C(C)(C)O | C3H8O
product | dibenzothiazyl disulfide | C1=CC=C2C(=C1)N=C(S2)SSC3=NC4=CC=CC=C4S3 | C14H8N2S4
